US07560481B2
N-methyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-3-[(2,2,3,3-tetramethylcyclopropyl)carbonyl]-1H-indole-5-carboxamide
A mixture 1-(tetrahydro-2H-pyran-4-ylmethyl)-3-[(2,2,3,3-tetramethylcyclopropyl)carbonyl]-1H-indole-5-carboxylic acid (0.10 g, 0.26 mmol, the minor product of Example 114B), 1,1′-carbonyldimidazole (55 mg, 0.34 mmol) and methylamine (2 M solution in THF, 0.2 mL, 0.4 mmol) in 4 mL of EtOAc and 3 mL of THF was processed as described in Example 93 to provide the title compound (14 mg, 0.035 mmol, 14% yield). 1H NMR (DMSO-d6, 300 MHz) δ ppm 1.27 (s, 12H), 1.30-1.46 (m, 4H), 2.03-2.17 (m, 1H), 2.22 (s, 1H), 2.79 (d, J=4.7 Hz, 3H), 3.22 (dt, J=11.4, 3.1 Hz, 2H), 3.80-3.88 (m, 2H), 4.17 (d, J=7.5 Hz, 2H), 7.63-7.77 (m, 2H), 8.32-8.37 (m, 1H), 8.38 (s, 1H), 8.74 (d, J=1.4 Hz, 1H); MS (DCI/NH3) m/z 397 (M+H)+; Anal. Calculated for C24H32N2O2.0.3H2O: C, 71.72; H, 8.18; N, 6.97. Found: C, 71.96; H, 8.19; N, 6.69.

reactant | 1-(tetrahydro-2H-pyran-4-ylmethyl)-3-[(2,2,3,3-tetramethylcyclopropyl)carbonyl]-1H-indole-5-carboxylic acid | O1CCC(CC1)CN1C=C(C2=CC(=CC=C12)C(=O)O)C(=O)C1C(C1(C)C)(C)C | C23H29NO4
reactant | 1,1′-carbonyldimidazole | 0.34 mmol, 55 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 0.4 mmol, 2 M, 0.2 mL | CN | CH5N
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-methyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-3-[(2,2,3,3-tetramethylcyclopropyl)carbonyl]-1H-indole-5-carboxamide | 0.035 mmol, 14 mg, 14% yield | CNC(=O)C=1C=C2C(=CN(C2=CC1)CC1CCOCC1)C(=O)C1C(C1(C)C)(C)C | C24H32N2O3
